US09216988B2
To a solution of N-tert-butyl-1-phenyl-methanesulfonamide (1 g, 4.39 mmol) in N,N-dimethylacetamide (15 mL) was added sodium hydride (60% in mineral oil) (211 mg, 5.3 mmol) and the reaction was stirred at ambient temperature for 30 minutes. 1-Bromo-4-(bromomethyl)benzene (1.21 g, 4.83 mmol) was then added and the reaction was stirred at 80° C. for 16 hours. Water was added and the reaction was diluted with EtOAc and washed with water (×2) and brine, dried with MgSO4, concentrated and purified by silica gel column chromatography (0-30% EtOAc in heptane) to give N-[(4-bromophenyl)methyl]-N-tert-butyl-1-phenyl-methanesulfonamide (1.18 g, 68% yield). LCMS (m/z) ES+ 397 [M+1]+.

reactant | N-tert-butyl-1-phenyl-methanesulfonamide | 4.39 mmol, 1 g | C(C)(C)(C)NS(=O)(=O)CC1=CC=CC=C1 | C11H17NO2S
reactant | sodium hydride | 5.3 mmol, 211 mg | [H-].[Na+]
reactant | 1-Bromo-4-(bromomethyl)benzene | 4.83 mmol, 1.21 g | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[(4-bromophenyl)methyl]-N-tert-butyl-1-phenyl-methanesulfonamide | 1.18 g, 68% yield | BrC1=CC=C(C=C1)CN(S(=O)(=O)CC1=CC=CC=C1)C(C)(C)C | C18H22BrNO2S
